* tt_analog_ring: current-starved ring oscillator + 8-bit binary current DAC
* GENERATED by analog/layout/build_tt_analog_ring.py - do not edit.
* One line per transistor finger, as placed in the layout.
* ngspice form: subcircuit calls into the PDK models.
.subckt tt_analog_ring code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] enable clk_out VPWR VGND
XD7r0h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r0h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r1h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r2h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r3h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r4h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r5h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r6h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r7h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r8h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r9h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r10h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r11h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r12h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r13h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r14h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h0_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h0_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h0_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h0_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h1_0 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h1_1 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h1_2 vbp code[7] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD7r15h1_3 VGND code[7] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r16h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r17h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r18h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r19h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r20h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r21h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r22h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h0_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h0_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h0_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h0_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h1_0 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h1_1 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h1_2 vbp code[6] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD6r23h1_3 VGND code[6] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h0_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h0_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h0_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h0_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h1_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h1_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h1_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r24h1_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h0_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h0_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h0_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h0_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h1_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h1_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h1_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r25h1_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h0_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h0_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h0_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h0_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h1_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h1_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h1_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r26h1_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h0_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h0_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h0_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h0_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h1_0 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h1_1 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h1_2 vbp code[5] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD5r27h1_3 VGND code[5] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h0_0 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h0_1 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h0_2 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h0_3 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h1_0 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h1_1 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h1_2 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r28h1_3 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h0_0 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h0_1 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h0_2 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h0_3 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h1_0 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h1_1 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h1_2 vbp code[4] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD4r29h1_3 VGND code[4] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h0_0 vbp code[3] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h0_1 VGND code[3] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h0_2 vbp code[3] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h0_3 VGND code[3] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h1_0 vbp code[3] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h1_1 VGND code[3] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h1_2 vbp code[3] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD3r30h1_3 VGND code[3] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD2r31h0_0 vbp code[2] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD2r31h0_1 VGND code[2] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD2r31h0_2 vbp code[2] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD2r31h0_3 VGND code[2] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD1r32h0_0 vbp code[1] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD1r32h0_1 VGND code[1] vbp VGND sg13_lv_nmos w=0.15u l=8u ng=1
XD0r33h0_0 vbp code[0] VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XDON_0 vbp VPWR VGND VGND sg13_lv_nmos w=0.15u l=8u ng=1
XMP0_0 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_1 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_2 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_3 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_4 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_5 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_6 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_7 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_8 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_9 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_10 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_11 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_12 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_13 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_14 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_15 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_16 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_17 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_18 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_19 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_20 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_21 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_22 vbp vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMP0_23 VPWR vbp vbp VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN0_0 vbn vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMP1_0 vbn vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMNS0_0 n0 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS0_0 p0 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMNA0_0 na0 enable n0 VGND sg13_lv_nmos w=0.6u l=0.13u ng=1
XMNA0_1 s0 s10 na0 VGND sg13_lv_nmos w=0.6u l=0.13u ng=1
XMPA0_0 s0 enable p0 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMPA0_1 p0 s10 s0 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS1_0 n1 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS1_0 p1 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN1_0 s1 s0 n1 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP1_0 s1 s0 p1 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS2_0 n2 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS2_0 p2 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN2_0 s2 s1 n2 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP2_0 s2 s1 p2 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS3_0 n3 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS3_0 p3 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN3_0 s3 s2 n3 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP3_0 s3 s2 p3 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS4_0 n4 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS4_0 p4 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN4_0 s4 s3 n4 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP4_0 s4 s3 p4 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS5_0 n5 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS5_0 p5 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN5_0 s5 s4 n5 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP5_0 s5 s4 p5 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS6_0 n6 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS6_0 p6 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN6_0 s6 s5 n6 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP6_0 s6 s5 p6 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS7_0 n7 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS7_0 p7 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN7_0 s7 s6 n7 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP7_0 s7 s6 p7 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS8_0 n8 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS8_0 p8 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN8_0 s8 s7 n8 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP8_0 s8 s7 p8 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS9_0 n9 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS9_0 p9 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN9_0 s9 s8 n9 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP9_0 s9 s8 p9 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMNS10_0 n10 vbn VGND VGND sg13_lv_nmos w=0.5u l=0.5u ng=1
XMPS10_0 p10 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMN10_0 s10 s9 n10 VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMP10_0 s10 s9 p10 VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMB1N_0 b1 s10 VGND VGND sg13_lv_nmos w=0.3u l=0.13u ng=1
XMB1P_0 b1 s10 VPWR VPWR sg13_lv_pmos w=0.5u l=0.13u ng=1
XMB2N_0 clk_out b1 VGND VGND sg13_lv_nmos w=1u l=0.13u ng=1
XMB2P_0 clk_out b1 VPWR VPWR sg13_lv_pmos w=2u l=0.13u ng=1
.ends
